US09388171B2
A 20-L 4-necked round-bottom flask purged and maintained under a N2 atmosphere was charged with a solution of diisopropylamine (582 g, 5.76 mol, 1.05 equiv) in THF (4.2 L), followed by the dropwise addition over 30 min of n-BuLi (2.4 M, 2.4 L, 1.05 equiv) with stirring at −30° C. The resulting solution was stirred at −30° C. for 30 min then cooled to −80° C. To the LDA solution was added dropwise over 1 h with stirring a solution of 2,5-dibromopyridine (1.3 Kg, 5.49 mol, 1.00 equiv) in THF (5.2 L). The resulting solution was stirred at −70° C. for 30 min. To the mixture was added CO2 (dry ice) (1267 g, 28.80 mol, 5.00 equiv) in several batches at −70° C. The resulting solution was stirred at −70° C. for 30 min, quenched by the addition of 5 L of water at −70° C., concentrated in vacuo and extracted with 3×4 L of EtOAc. The pH value of the aqueous layer was adjusted to 3-4 with HCl (12 mol/L). The precipitate was collected by filtration to afford 2,5-dibromoisonicotinic acid (A-2) white solid.

reactant | diisopropylamine | 5.76 mol, 582 g, 1.05 equiv | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.4 M, 2.4 L, 1.05 equiv | [Li]CCCC
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2,5-dibromopyridine | 5.49 mol, 1.3 Kg, 1.00 equiv | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | CO2 | 28.80 mol, 1267 g, 5.00 equiv | C(=O)=O | CO2
solvent | THF | 4.2 L | C1CCOC1 | C4H8O
solvent | THF | 5.2 L | C1CCOC1 | C4H8O
product | 2,5-dibromoisonicotinic acid | BrC=1C=C(C(=O)O)C(=CN1)Br | C6H3Br2NO2
